US06579872B1
N-[5-(4-cyanobenzamido)-2-methylphenyl]-4-(2-methoxyethylaminomethyl)benzamide
2-Methoxyethylamine (0.019 ml) was added to a stirred solution of N-[5-(4-cyanobenzamido)-2-methylphenyl]-4-(chloromethyl)benzamide (0.060 g) and potassium carbonate (0.041 g) in acetone (5 ml) and the reaction mixture was heated to 55° C. overnight. Further portions of 2-methoxyethylamine and potassium carbonate (same quantities as before) were added and the reaction mixture was stirred at 55° C. for a further 4 days. The reaction mixture was evaporated and the residue was triturated with water. The resultant solid was isolated and dried under vacuum at 55° C. to give the title compound as a solid (0.039 g, 59%); NMR Spectrum: (CDCl3) 2.27 (s, 3H), 2.83 (m, 2H), 3.37 (m, 4H), 3.56 (t, 2H), 3.91 (s, 2H), 7.19 (d, 1H), 7.49 (d, 2H), 7.77 (m, 7H), 7.95 (d, 2H), 8.13 (s, 1H), 8.3 (s, 1H); Mass Spectrum: M−H− 441.

reactant | 2-Methoxyethylamine | 0.019 ml | COCCN | C3H9NO
reactant | N-[5-(4-cyanobenzamido)-2-methylphenyl]-4-(chloromethyl)benzamide | 0.060 g | C(#N)C1=CC=C(C(=O)NC=2C=CC(=C(C2)NC(C2=CC=C(C=C2)CCl)=O)C)C=C1 | C23H18ClN3O2
reactant | potassium carbonate | 0.041 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | N-[5-(4-cyanobenzamido)-2-methylphenyl]-4-(2-methoxyethylaminomethyl)benzamide | 0.039 g, 59% | C(#N)C1=CC=C(C(=O)NC=2C=CC(=C(C2)NC(C2=CC=C(C=C2)CNCCOC)=O)C)C=C1 | C26H26N4O3
